US08278307B2
tert-butyl {5-[(trimethylsilyl)ethynyl]-1,3-thiazol-2-yl}carbamate:
A mixture of tert-butyl (5-bromo-1,3-thiazol-2-yl)carbamate (2.79 g, 10 mmol), ethynyltrimethylsilane (1.27 g, 13 mmol), Pd(PPh3)4 (578 mg, 0.5 mmol), CuI (143 mg, 0.75 mmol), and diisopropylethylamine (1.94 g, 15 mmol) in DMF (10 mL) was heated at 50° C. overnight under an atmosphere of N2. Upon cooling to ambient temperature, the reaction mixture was concentrated and the crude product was purified by silica gel flash chromatography (eluted with 20% EtOAc/hexanes) to give a yellow solid (2.55 g, 86%).

reactant | tert-butyl (5-bromo-1,3-thiazol-2-yl)carbamate | 10 mmol, 2.79 g | BrC1=CN=C(S1)NC(OC(C)(C)C)=O | C8H11BrN2O2S
reactant | ethynyltrimethylsilane | 13 mmol, 1.27 g | C(#C)[Si](C)(C)C | C5H10Si
reactant | diisopropylethylamine | 15 mmol, 1.94 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)4 | 0.5 mmol, 578 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | CuI | 0.75 mmol, 143 mg | [Cu]I
product | tert-butyl {5-[(trimethylsilyl)ethynyl]-1,3-thiazol-2-yl}carbamate | 2.55 g, 86% | C[Si](C)(C)C#CC1=CN=C(S1)NC(OC(C)(C)C)=O | C13H20N2O2SSi
